US07723286B2
A solution of 2-carbomethoxy-4,4-dimethyl-1-(2-methyl-1,3-dioxapent-1-yl) cyclohexane (5.16 g) in 10 ml of THF was added dropwise, over 15 minutes, to a solution of vinylmagnesium bromide (1.2 g) and vinyl bromide (5.35 g) in 20 ml of THF at 65° C. After 4 hours the mixture was cooled and poured into cold 20% aqueous HCl (40 ml). Extraction of the mixture with Et2O, removal of the solvents and a SiO2 chromatography (CH2Cl2/AcOEt) provide pure 1-(2-hydroxy-5,5-dimethyl-1-cyclohexyl)-4-penten-1-one (yield 60%).

reactant | 2-carbomethoxy-4,4-dimethyl-1-(2-methyl-1,3-dioxapent-1-yl) cyclohexane | 5.16 g | C(=O)(OC)C1C(CCC(C1)(C)C)OC(OCC)C | C14H26O4
reactant | vinylmagnesium bromide | 1.2 g | C(=C)[Mg]Br
reactant | vinyl bromide | 5.35 g | C(=C)Br | C2H3Br
reactant | HCl | 40 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 AcOEt | C(Cl)Cl.CCOC(=O)C
product | 1-(2-hydroxy-5,5-dimethyl-1-cyclohexyl)-4-penten-1-one | yield 60% | OC1C(CC(CC1)(C)C)C(CCC=C)=O | C13H22O2
